US09029374B2
8-(1-(4-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (82 mg, 0.20 mmol) was reacted with dimethylamine (0.119 mL, 0.24 mmol) using a procedure similar to the one described in Example 2.00 to afford 8-(1-(4-fluorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (53 mg, 60.7%) as a white solid. Mass Spectrum: M+H+ 440. NMR Spectrum: (DMSOd6) 1.50 (d, 3H), 2.66 (s, 3H), 2.92 (s, 3H), 3.50-3.65 (m, 4H), 3.70-3.81 (m, 4H), 4.92-5.02 (m, 1H), 5.60 (s, 1H), 6.27 (d, 1H), 6.46 (dd, 2H), 6.84 (dd, 2H), 7.56 (d, 1H), 7.77 (d, 1H).

reactant | 8-(1-(4-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 0.20 mmol, 82 mg | FC1=CC=C(C=C1)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O | C22H21FN2O5
reactant | dimethylamine | 0.24 mmol, 0.119 mL | CNC | C2H7N
product | 8-(1-(4-fluorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 53 mg, 60.7% | FC1=CC=C(C=C1)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C24H26FN3O4
